US07893056B2
[(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.0979 g, 0.1802 mmol) was dissolved in acetic acid (8 mL) and water (2 mL). The reaction was left to stir overnight. The volatiles were evaporated, and the resulting material was purified by RP-HPLC to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide as a beige solid (0.0273 g, 33%). LCMS: (M+H)+=460.7.

reactant | [(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.1802 mmol, 0.0979 g | C1(CCCC1)C[C@H](CN(C=O)OC1OCCCC1)C(=O)NNC1=NC(=NC(=C1F)N(CC1=CC=NC=C1)C)C | C27H38FN7O4
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 0.0273 g, 33% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N(CC1=CC=NC=C1)C)C | C22H30FN7O3
